US05470851
1-[2-(Diphenylmethoxy)ethyl]homopiperazine
Following a procedure similar to that described in Preparation 1, but using 2-(diphenylmethoxy)ethyl chloride and homopiperazine, the title compound was obtained ina yield of 68%.

reactant | 2-(diphenylmethoxy)ethyl chloride | C1(=CC=CC=C1)C(OCCCl)C1=CC=CC=C1 | C15H15ClO
reactant | homopiperazine | N1CCNCCC1 | C5H12N2
product | 1-[2-(Diphenylmethoxy)ethyl]homopiperazine | yield of 68% | C1(=CC=CC=C1)C(OCCN1CCNCCC1)C1=CC=CC=C1 | C20H26N2O
